Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
CHIEF COMPLAINT: "I'm here to restart my ECT."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
   The patient is a ___ y/o caucasian male with prior dx of MDD,
bipolar d/o, and anxiety d/o, presenting to the ED after being
referred by his outpatient psychiatrist in order to restart ECT
in light of worsening depression.  The patient was hospitalized
at ___ following a SA via OD and began ECT during that 
hospital
stay (___). After discharge he has continued his ECT, 
initially
twice a week and then tapering to one treatment every ___ weeks. 

The ECT "stopped abruptly in ___ as the patient needed to be
medically cleared again and was unable to obtain an appointment
with his PCP in time.  When he was seen at his PCP office in
___ he was dx with HTN and started on Lisinopril. This further
delayed restarting his ECT and added a stressor into his life. 
By this time he was quite frustrated and decided to not follow 
up
with his ECT treatments.  
   Since then he states his mood has been "progressively worse
and worse". He states he has been isolative, staying in bed,
having poor personal hygeine, and experiencing decreased energy
and concentration. He states that his appetite comes and goes 
and
he has lost 5lbs in the last several months.  He also reports
altered sleep patterns; sleeping ___ hours at night and then 6 
or
so hours during the day. He currently denies any HI, AVH, PI, or
delusional thinking. He does admit to passive SI without a plan
or intent. He denies currently stockpiling pills. He does have a
history of 2 prior suicide attempts (1 OD on Klonopin and 1 OD 
on
Trazodone). Recent stressors include losing disability benefits
in ___ and financial stess. 
   Collateral information was obtained from Dr. ___ 
___
that the patient needs inpatient hospitalization for ECT, and
that while the patient does have passive SI, he is not in
immediate danger of self-harm
 
Past Medical History:
PSYCHIATRIC HISTORY: 
   The patient has been psychiatrically hospitalized 3 times
prior. First to a rehab facility for EtOH abuse, and the last 
two
times following suicide attempts. Last psychiatric
hospitalization was ___ at ___ for ECT.  These attempts were
an OD on Klonopin and an OD on Trazodone. He sees Dr. ___
(___) for outpatient psychiatry and ___
(___) for therapy. He has tried Zyprexa in the past but
did not like the associated weight gain.  He denies any h/o SIB,
or violence. He denies having any weapons at home.

PAST MEDICAL HISTORY: The patient has no history of head trauma
or seizures outside of ECT. He was recently diagnosed with mild
HTN and started on a low dose of Lisinopril. PCP is ___
(___)

 
Social History:
SUBSTANCE ABUSE HISTORY: P.t. has a h/o of abusing EtOH, but
admits to only social drinking since completing an ___ 
___
rehab program. Denies any history of withdrawal, seizures,
delirium. No tobacco use. Denies regular use of street drugs, 
but
does admit to use of cocaine and MJ last ___ years ago.

SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: Denies.

 
Physical Exam:
MENTAL STATUS EXAM:
     APPEARANCE & FACIAL EXPRESSION: ___ y/o caucasian male who
appears younger than his stated age. Well groomed, well
nourished. Wearing a hospital gown over street clothes. 
Reclining
in hospital bed for this interview. 
     BEHAVIOR: Cooperative with interview. No abnormal movements
noted. Good eye-contact.
     ATTITUDE: Pleasant and cooperative
     SPEECH: Normal rate, tone, volume, and prosody
     MOOD: "Melancholy"
     AFFECT: Mildly blunted
     THOUGHT FORM: Linear and goal directed
     THOUGHT CONTENT: Denies HI, AVH, PI, delusional thinking.
Not obviously responding to stimuli. Admits to passive SI 
without
plan or intent.
     INSIGHT AND JUDGMENT: Fair and Good
     COGNITIVE ASSESSMENT:
          SENSORIUM: Alert and Oriented x3
          ATTENTION: Months of the year forwards and backwards
          MEMORY: ___ registration and ___ recall
          CALCULATIONS: "11" quarters in $2.75 
          FUND OF KNOWLEDGE: Average to above average
          PROVERB INTERPRETATION: book/cover = "Just because
someone looks one way that might not be the way they are on the
inside or what they think."
          SIMILARITIES/ANALOGIES: apple/orange - "both fruit,
both grow on trees"

 
Pertinent Results:
___ 06:20PM   GLUCOSE-88 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-15
___ 06:20PM   estGFR-Using this
___ 06:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:20PM URINE  HOURS-RANDOM
___ 06:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 06:20PM   WBC-9.7# RBC-5.00 HGB-16.6 HCT-47.6 MCV-95 
MCH-33.2* MCHC-34.9 RDW-13.5
___ 06:20PM   NEUTS-67.1 ___ MONOS-3.6 EOS-1.3 
BASOS-0.7
___ 06:20PM   PLT COUNT-335
___ 06:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
1) Psychiatric
patient was admitted for ECT treatment. Initially on the unit 
patient was isolative and withdrawn sticking mostly to his room, 
spending much of his time in bed and not attending groups. He 
initially endorsed passive suicidal ideation and neurovegetative 
symptoms of depressed mood, decrease appetite and sleep and 
fatigue. With the ECT treatments, patient became more engaged, 
spent less time in bed and became more active in the milieu and 
denied any further suicidal ideation. he expressed anxiety about 
the future but also hopefulness that things could change for 
him. Initially he reported significant difficulty sleeping which 
responded well to Ambien. He continued to express improved mood, 
was more visible on the unit and started to feel closer to his 
baseline.  His medication regime was reviewed and it was 
discussed with the patient our recommendation to simplify the 
medication regimen if he is benefiting from the ECT.  A 
discussion was conducted also with Dr. ___ 
outpatient psychiatrist and it was felt that we could decrease 
the Wellbutrin to 100 mg po bid and Dr. ___ follow this 
change as an outpatient and discontinue it completely if he can 
tolerate it. This was done without side effects and upon 
discharge, his dose was 100 mg po daily. Patient expressed a 
desire to continue his maintenance ECT at ___  as it was 
closer to his home.  After a decision with Dr. ___ 
Dr. ___ was made with ___ and it was 
arranged for patient to continue his maintenance ECT in ___ 
after discharge.

During his stay, patient appeared brighter and more engageable. 
Discussion with the patient were conducted on how to notice the 
warnings signs of the patients depression (such as isolation, 
increase time in bed, withdrawal) and ways he could safeguard 
from the withdrawing from treatment if he starts to become 
significantly depressed again. The importance of the maintenance 
ECT was also discussed with the patient who agrees that 
continuing was important to him.  In terms of ECT, patient noted 
a few headaches afterwards that went away and mild short term 
initially memory loss, but that he was always able to retrieve 
the information if he focuses. A Mini Mental exam done after the 
___ ECT showed the same as his baseline, a score of ___.

2)Medical
patient received medical clearance prior to admission and there 
fore it did not have to be repeated. Patient did   mention that 
he had a scalp biopsy done by dermatology a few weeks ago and a 
follow up was scheduled at the ___ to remove the suture and 
follow up the biopsy results.  The pathology was consistent with 
psoriasis and as patient was unable to make his appointment, 
dermatology was consulted to do the follow up as an inpatient. 
While the sutures fell out prior to dermatology's arrival, they 
assessed and recommended Clobastol cream twice daily for 2 weeks 
which was initiated and the patient noted immediate improvement. 
Appointments were made for the patient to follow up both with 
his PCP ___ and with the ___ clinic in 1 months 
time.

3) Legal
Patient was admitted on a conditional voluntary and this status 
did not change during his stay

4) Disposition
- patient was discharged home on ___.   He will 
continue ECT at ___.
 
Medications on Admission:
1.) Lisinopril 5mg daily
2.) Wellbutrin 200mg BID
3.) Efexxor 300mg qAM
4.) Abilify 10mg qHS
5.) Trazodone 100-200mg qHS
6.) Klonopin 0.5mg TID PRN anxiety

 
Discharge Medications:
1. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Aripiprazole 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Four (4) 
Capsule, Sust. Release 24 hr PO QAM (once a day (in the 
morning)).  
4. traZODONE 50 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for Insomnia.  
5. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*0*
6. Clobetasol 0.05 % Cream Sig: One (1) Appl Topical BID (2 
times a day): apply sparingly to the affected area x 1 week.
Disp:*1 1* Refills:*0*
7. Bupropion 100 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.
Disp:*30 Tablet Sustained Release(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: Major depressive disorder, recurrent severe, r/o Bipolar 
Disorder, recent depressive episode
AXIS II: deferred
AXIS III: hypertension, psorasis
AXIS IV: unemoployment, social stressors
AXIS V: 50

 
Discharge Condition:
Stable, improved.
Appearance:Fair grooming.  Good eye contact.  No psychomotor 
abnormalities.
Speech:Fluent, normal r/r/v.
Mood:“So much better.”
Affect:  Appears euthymic, related.  
Thought Process:Linear overall
Thought Content:Denies SI.  Future oriented.  No unusual 
content.  Denies HI.
Abnormal Perceptions:Denies

 
Discharge Instructions:
You were admitted to ___ for treatment of your depression. 
Please return to the Emergency department if you have increase 
thoughts of self harm. PLease follow up with your outpatient 
providers.
 
Followup Instructions:
___